US05310920
A mixture comprising 6.0 g of 1{2-(2-chloropyridin-5-yl)vinyl}-2-nitroiminoimidazolidine, 8.0 g of 2-chloro-5-chloromethylpyridine, 6.8 g of potassium carbonate and 60 ml of dimethylsulfoxide was stirred at 75° C. for 2.5 hours. The reaction mixture was poured into water, extracted with ethyl acetate, washed with water, dried (with anhydrous MgSO4) and concentrated to give an oily residue. This was purified by column chromatography (silica gel, eluent: ethyl acetate) to give 3.9 of 1-(2 chloropyridin-5-ylmethyl)-2-nitroimino-3-{trans-2-(2-chloropyridin-5-yl)vinyl}imidazolidine.

reactant | 1{2-(2-chloropyridin-5-yl)vinyl}-2-nitroiminoimidazolidine | 6.0 g | ClC1=NC=C(C=C1)C=CN1C(NCC1)=N[N+](=O)[O-] | C10H10ClN5O2
reactant | 2-chloro-5-chloromethylpyridine | 8.0 g | ClC1=NC=C(C=C1)CCl | C6H5Cl2N
reactant | potassium carbonate | 6.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | dimethylsulfoxide | 60 ml | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | 1-(2 chloropyridin-5-ylmethyl)-2-nitroimino-3-{trans-2-(2-chloropyridin-5-yl)vinyl}imidazolidine | ClC1=NC=C(C=C1)CN1C(N(CC1)\C=C\C=1C=CC(=NC1)Cl)=N[N+](=O)[O-] | C16H14Cl2N6O2
